US04551530
5-(4-Pyridyl)imidazo[1,2-a]pyrimidine
A mixture of 5.29 g of 2-aminoimidazole hemisulfate, 3.28 g of anhydrous sodium acetate and 7.04 g of 3-dimethylamino-1-(4-pyridyl)-2-propen-1-one (prepared according to the procedure of Example 63 in U.S. Pat. No. 4,281,000) in 100 ml of glacial acetic acid was heated under reflux for 16 hours. The procedure of the above Example 1 was followed and the title compound was obtained as pale yellow needles, mp 244°-245° C.

reactant | 2-aminoimidazole hemisulfate | 5.29 g | S(=O)(=O)(O)O.NC=1NC=CN1.NC=1NC=CN1
reactant | sodium acetate | 3.28 g | C(C)(=O)[O-].[Na+]
reactant | 3-dimethylamino-1-(4-pyridyl)-2-propen-1-one | 7.04 g | CN(C=CC(=O)C1=CC=NC=C1)C | C10H12N2O
solvent | acetic acid | 100 ml | C(C)(=O)O | C2H4O2
product | 5-(4-Pyridyl)imidazo[1,2-a]pyrimidine | N1=CC=C(C=C1)C1=CC=NC=2N1C=CN2 | C11H8N4
